US07625932B2
Preparation of 4-cyano-5-ethyl-1-methyl-3-(4-{methyl-[2-(propane-2-sulfonylamino)-ethyl]-amino}-phenyl)-1H-pyrrole-2-carboxylic acid ethyl ester
Prepare the title compound in a manner analogous to the procedure set forth in Example E-281, using 4-cyano-5-ethyl-1-methyl-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrrole-2-carboxylic acid ethyl ester (817 mg, 2-4 mmol, prepared in preparation 50), propane-2-sulfonic acid {2-[(4-bromo-phenyl)-methyl-amino]-ethyl}-amide (550 mg, 1.6 mmol, prepared in preparation 81), aqueous sodium carbonate (4.0 mL, 8.0 mmol, 2N), and [1,1′-bis(diphenyl-phosphino)-ferrocene]dichloropalladium(II) complex with methylene chloride (1:1) (39 mg, 0.05 mmol) to give 404 mg (55%) of the title compound. Mass spectrum (ES+)=461.1 (M+1).

reactant | 4-cyano-5-ethyl-1-methyl-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrrole-2-carboxylic acid ethyl ester | 2-4 mmol, 817 mg | C(C)OC(=O)C=1N(C(=C(C1B1OC(C(O1)(C)C)(C)C)C#N)CC)C | C17H25BN2O4
reactant | propane-2-sulfonic acid {2-[(4-bromo-phenyl)-methyl-amino]-ethyl}-amide | 1.6 mmol, 550 mg | BrC1=CC=C(C=C1)N(CCNS(=O)(=O)C(C)C)C | C12H19BrN2O2S
reactant | sodium carbonate | 8.0 mmol, 2N, 4.0 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | methylene chloride | 0.05 mmol, 39 mg | C(Cl)Cl | CH2Cl2
product | 4-cyano-5-ethyl-1-methyl-3-(4-{methyl-[2-(propane-2-sulfonylamino)-ethyl]-amino}-phenyl)-1H-pyrrole-2-carboxylic acid ethyl ester | 404 mg, 55% | C(C)OC(=O)C=1N(C(=C(C1C1=CC=C(C=C1)N(CCNS(=O)(=O)C(C)C)C)C#N)CC)C | C23H32N4O4S
